US05395944
a) 7-Benzyl-1-cyano-2-oxa-7-azabicyclo[3.3.0]octane
14.4 g (0.15 mol) of 4,5-dihydrofuran-2-carbonitrile are introduced in 300 ml of absolute methylene chloride, 1.8 g of triethylamine and 1.8 g of trifluoroacetic acid are added, and the mixture is warmed to 40° C. 42.6 g (0.15 mol) of N-benzyl-N-methoxymethyl-N-trimethylsilylmethylamine are added dropwise to this mixture which is then stirred at 40° C. for 15 hours. It is then washed with 50 ml of saturated sodium hydrogen carbonate solution, dried over MgSO4, concentrated and distilled twice.

reactant | 4,5-dihydrofuran-2-carbonitrile | 0.15 mol, 14.4 g | O1C(=CCC1)C#N | C5H5NO
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 1.8 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-benzyl-N-methoxymethyl-N-trimethylsilylmethylamine | 0.15 mol, 42.6 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 7-Benzyl-1-cyano-2-oxa-7-azabicyclo[3.3.0]octane | C(C1=CC=CC=C1)N1CC2CCOC2(C1)C#N | C14H16N2O
